US06194454B1
4-Methoxy-5,6,7,8-tetrahydronaphthalen-1-ol
To a cooled (0° C.), stirred solution of 5-hydroxy-8-methoxy-3,4-dihydro-2H-naphthalen-1-one (1.7 g) in trifluoroacetic acid (20 mL) triethylsilane (4.2 mL) was added and the reaction warmed to RT and then stirred for 1.5 h). The reaction mixture was concentrated in vacuo, partitioned between ethyl acetate/water, the organic layer was washed with water, brine, and then dried over sodium sulfate and concentrated in vacuo. The resulting oil is flash chromatographed (10% ethyl acetate/hexanes) to afford the title compound as a colorless solid (1.6 g).

reactant | 5-hydroxy-8-methoxy-3,4-dihydro-2H-naphthalen-1-one | 1.7 g | OC1=C2CCCC(C2=C(C=C1)OC)=O | C11H12O3
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Methoxy-5,6,7,8-tetrahydronaphthalen-1-ol | 1.6 g | COC1=CC=C(C=2CCCCC12)O | C11H14O2
